US06380218B1
a-[2-(2-Chlorophenyl)ethyl]-2-(4-fluorophenoxy)-3-pyridinemethanol
A solution of 76.0 mg (0.214 mmol) 3-(2-Chlorophenyl)-1-[2-(4-fluorophenoxy)-3-pyridinyl]-1-propanone in 5 mL of methanol was cooled to 0° C. and treated with 8.0 mg (0.21 mmol) of NaBH4. The mixture was stirred for 30 min at 0° C. and quenched by the addition of 1 mL of aqueous 1 N hydrochloric acid solution. The mixture was evaporated, and the residue was partitioned between 100 mL of EtOAc and 50 mL of saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with brine, dried (Na2SO4), and evaporated to give 79 mg (100%) of the title compound as an oil. 1H NMR (CDCl3) d 2.10-2.32 (2H, m), 2.35 (1H, d, J=6 Hz), 2.83-3.08 (2H, m), 5.06-5.15 (1H, m), 7.01-7.33 (9H, m), 7.85 (1H, dd, J=2, 7 Hz), 8.05 (1H, dd, J=2, 5 Hz); thermospray MS (m/e) 358 and 360 (M++1).

reactant | 3-(2-Chlorophenyl)-1-[2-(4-fluorophenoxy)-3-pyridinyl]-1-propanone | 0.214 mmol, 76.0 mg | ClC1=C(C=CC=C1)CCC(=O)C=1C(=NC=CC1)OC1=CC=C(C=C1)F | C20H15ClFNO2
reactant | NaBH4 | 0.21 mmol, 8.0 mg | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | a-[2-(2-Chlorophenyl)ethyl]-2-(4-fluorophenoxy)-3-pyridinemethanol | 79 mg, 100% | ClC1=C(C=CC=C1)CCC(O)C=1C(=NC=CC1)OC1=CC=C(C=C1)F | C20H17ClFNO2
